US05919433
a) N-(2-Bromopropionyl)-valine
70.2 g (409.7 mmol) of a-bromopropionic acid chloride is added in drops at 0° C. to 40 g (341.4 mmol) of valine and 103.7 g (1024 mmol) of triethylamine in 600 ml of methylene chloride. In this case, the temperature remains between 0° C.-5° C. 1000 ml of 5% aqueous hydrochloric acid is added, and the organic phase is separated. The organic phase is extracted once more with 500 ml of 5% aqueous hydrochloric acid, dried on magnesium sulfate and evaporated to dryness in a vacuum The residue is recrystallized from acetone/diisopropyl ether.

reactant | a-bromopropionic acid chloride | 409.7 mmol, 70.2 g | BrC(C(=O)Cl)C | C3H4BrClO
reactant | valine | 341.4 mmol | N[C@@H](C(C)C)C(=O)O | C5H11NO2
reactant | triethylamine | 1024 mmol, 103.7 g | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | 1000 ml | Cl | ClH
solvent | methylene chloride | 600 ml | C(Cl)Cl | CH2Cl2
product | N-(2-Bromopropionyl)-valine | BrC(C(=O)N[C@@H](C(C)C)C(=O)O)C | C8H14BrNO3
